US08008298B2
4-(3-Bromo-5-methoxy-phenyl)-thiomorpholine.
This material was prepared starting from 1,3-dibromo-5-methoxy-benzene following general procedures described in these Examples, but using thiomorpholine instead of pyrrolidine.

reactant | 1,3-dibromo-5-methoxy-benzene | BrC1=CC(=CC(=C1)OC)Br | C7H6Br2O
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-(3-Bromo-5-methoxy-phenyl)-thiomorpholine | BrC=1C=C(C=C(C1)OC)N1CCSCC1 | C11H14BrNOS
